US04780466
8-[3-[4-(3-Methylthiophenyl)-1-piperazinyl]propyloxy]-8-azaspiro[4.5]-decan-7,9-dione
A mixture of 8-(3-bromopropyloxy)-8-azaspiro[4.5]decan-7,9-dione (4.0 g), 1-(3-methylthiophenyl)piperazine (2.75 g) and diisopropylethylamine (4.6 ml) was stirred in 100 ml of dry CH3CN at room temperature under N2.

reactant | 8-(3-bromopropyloxy)-8-azaspiro[4.5]decan-7,9-dione | 4.0 g | BrCCCON1C(CC2(CCCC2)CC1=O)=O | C12H18BrNO3
reactant | 1-(3-methylthiophenyl)piperazine | 2.75 g | CSC=1C=C(C=CC1)N1CCNCC1 | C11H16N2S
reactant | diisopropylethylamine | 4.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH3CN | 100 ml | CC#N | C2H3N
product | 8-[3-[4-(3-Methylthiophenyl)-1-piperazinyl]propyloxy]-8-azaspiro[4.5]-decan-7,9-dione | CSC=1C=C(C=CC1)N1CCN(CC1)CCCON1C(CC2(CCCC2)CC1=O)=O | C23H33N3O3S
